US08471005B2
Into a 30 mL vial, 2-Methylsulfanyl-7-phenyl-pyrrolo[2,1-f][1,2,4]triazine (0.295 g, 0.00122 mol), Tetrahydrofuran (10 mL, 0.1 mol) and Methanol (5 mL, 0.1 mol) were added. N-Bromosuccinimide (0.239 g, 0.00134 mol) was added over 10 minutes. The reaction was stirred at room temperature overnight. The solvent was removed under vacuum. The solid was partitioned with water, filtered and washed with water to give a yellow solid. The solid was dried under vacuum over night to give 5-Bromo-2-methylsulfanyl-7-phenyl-pyrrolo[2,1-f][1,2,4]triazine as a yellow solid (0.34 g, 87%). NMR 1H (DSMO-d6)-8.93 (s, 1H), 8.19 (d, 2H, J=7.61 Hz), 7.61 (s, 1H), 7.53 (t, 2H, J=8.60 Hz), 7.42 (t, 1H, J=7.37), 2.58 (s, 3H)

reactant | 2-Methylsulfanyl-7-phenyl-pyrrolo[2,1-f][1,2,4]triazine | 0.00122 mol, 0.295 g | CSC1=NN2C(C=N1)=CC=C2C2=CC=CC=C2 | C13H11N3S
reactant | Tetrahydrofuran | 0.1 mol, 10 mL | O1CCCC1 | C4H8O
reactant | Methanol | 0.1 mol, 5 mL | CO | CH4O
reactant | N-Bromosuccinimide | 0.00134 mol, 0.239 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 5-Bromo-2-methylsulfanyl-7-phenyl-pyrrolo[2,1-f][1,2,4]triazine | 0.34 g, 87% | BrC=1C=C(N2N=C(N=CC21)SC)C2=CC=CC=C2 | C13H10BrN3S
